US06911561B2
In a manner similar to that of Example 1, H2O2 (>95%) was combined with nonafluorovaleric anhydride to give bis(nonafluoropentanoyl) peroxide (δ−83.2, −117.9, −124.8, −127.5) in nonafluorovaleric acid.

reactant | H2O2 | OO | H2O2
reactant | nonafluorovaleric anhydride | FC(C(C(C(C(=O)OC(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)=O)(F)F)(F)F)(F)F)(F)F | C10F18O3
solvent | nonafluorovaleric acid | FC(C(C(C(C(=O)O)(F)F)(F)F)(F)F)(F)F | C5HF9O2
product | bis(nonafluoropentanoyl) peroxide | FC(C(C(C(=O)OOC(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)=O)(F)F)(F)F)(C(F)(F)F)F | C10F18O4
